US06881733B1
(4,5-difluorobenzofur-7-yl)boronic acid
Alternatively, a mixture of 0.484 gm (2.08 mMol) 4,5-difluoro-7-bromobenzofuran and 0.065 gm (2.67 mMol) magnesium in 5 mL tetrahydrofuran was heated at reflux. Two drops of 1,2-dibromomethane were added and the mixture heated at reflux for 45 minutes. To this mixture were added 260 μL (2.29 mMol) trimethylborate and heating was continued for an additional 45 minutes. After cooling to room temperature, 2.3 mL 1N hydrochloric acid were added and the mixture stirred for 45 minutes. The mixture was then extracted well with diethyl ether. The combined organic extracts were dried over sodium sulfate and concentrated under reduced pressure. The residue was slurried in 4 mL hexanes, the solvent removed by decantation, and the residual solid dried under reduced pressure to provide 0.402 gm (97.8%) of the title compound.

reactant | 4,5-difluoro-7-bromobenzofuran | 2.08 mMol, 0.484 gm | FC1=C(C=C(C2=C1C=CO2)Br)F | C8H3BrF2O
reactant | magnesium | 2.67 mMol, 0.065 gm | [Mg] | Mg
reactant | trimethylborate | 2.29 mMol, 260 μL | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1N, 2.3 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | 1,2-dibromomethane | Two drops | C(CBr)Br | C2H4Br2
product | (4,5-difluorobenzofur-7-yl)boronic acid | 0.402 gm, 97.8% | FC1=C(C=C(C2=C1C=CO2)B(O)O)F | C8H5BF2O3
